US04212868
Preparation of 2-pyridinecarbaldehyde-p-chlorophenyl hydrazone (2)
2.2 g of 2-pyridinecarbaldehyde was added to a mixture of 3.6 g of p-chlorophenylhydrazine hydrochloride and 9.8 g of sodium acetate in 60 ml of 50% by volume aqueous ethyl alcohol. The mixture was refluxed for 10 minutes, cooled and the precipitate crystallized from ethyl alcohol to give 2, as yellow crystals, mp 184°-186° C.

reactant | 2-pyridinecarbaldehyde | 2.2 g | N1=C(C=CC=C1)C=O | C6H5NO
reactant | p-chlorophenylhydrazine hydrochloride | 3.6 g | Cl.ClC1=CC=C(C=C1)NN
reactant | sodium acetate | 9.8 g | C(C)(=O)[O-].[Na+]
solvent | ethyl alcohol | C(C)O | C2H6O
product | 2-pyridinecarbaldehyde-p-chlorophenyl hydrazone | ClC1=CC=C(C=C1)NN=CC1=NC=CC=C1 | C12H10ClN3
